US05792769
b) 2-Chlorobenzenesulfonic acid 3-[2-(piperazin-4-yl)ethoxy]-5-methylphenyl ester
2-Chlorobenzenesulfonic acid 3-[[N-(tert-butoxycarbonyl)-piperazin-4-yl]ethoxy]-5-methylphenyl ester (1.02 g, 2.0 mmol), as prepared in the preceding step, was treated with 40 mL of 4N HCl in 1,4-dioxane at room temperature for 2 h. The solvent was removed in vacuo and the residue was purified by flash column chromatography (10% methanol in methylene chloride saturated with NH3) to give the title compound as a pale-yellow liquid (695 mg, 84%). 1 H-NMR (300 MHz, CDCl3): δ 1.92 (bs, 2H), 2.24 (s, 3H), 2.53 (d, 3 H), 2.73 (t, 2H), 2.92 (t, 4H), 3.98 (t, 2H), 6.50 (t, 1H), 6.54 (t, 1H), 6.61 (t, 1H) 7.38 (dt, 1H), 7.62 (m, 2H), 7.97 (dd, 1H).

reactant | 2-Chlorobenzenesulfonic acid 3-[[N-(tert-butoxycarbonyl)-piperazin-4-yl]ethoxy]-5-methylphenyl ester | 2.0 mmol, 1.02 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCOC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C=CC=C1)Cl | C24H31ClN2O6S
reactant | HCl | 4N, 40 mL | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 2-Chlorobenzenesulfonic acid 3-[2-(piperazin-4-yl)ethoxy]-5-methylphenyl ester | 695 mg, 84% | N1CCN(CC1)CCOC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C=CC=C1)Cl | C19H23ClN2O4S
